US06610707B1
Cycloheptylmethanesulfonyl Chloride
The subtitle compound was prepared by the method of Preparation 58 from sodium cycloheptylmethanesulfonate [Preparation 67] and thionyl chloride, to afford cycloheptylmethanesulfonyl chloride as a colourless oil.

reactant | sodium cycloheptylmethanesulfonate | C1(CCCCCC1)CS(=O)(=O)[O-].[Na+]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | cycloheptylmethanesulfonyl chloride | C1(CCCCCC1)CS(=O)(=O)Cl | C8H15ClO2S
